US05712267
(2S,4S)-2-[3-Carbamoyl-4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-4-mercapto-1-(4nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 8, but using 2.18 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 0.79 g of N,N'-carbonyldiimidazole and 1.81 g of 2-carbamoyl-1-(4-nitrobenzyloxycarbonyl)piperazine, 2.13 g of the title compound were obtained as an amorphous solid.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 2.18 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 2-carbamoyl-1-(4-nitrobenzyloxycarbonyl)piperazine | 1.81 g | C(N)(=O)C1N(CCNC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N4O5
product | (2S,4S)-2-[3-Carbamoyl-4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-4-mercapto-1-(4nitrobenzyloxycarbonyl)pyrrolidine | 2.13 g | C(N)(=O)C1CN(CCN1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C26H28N6O10S
